US04883815
0.38 g (0.01 mol) of sodium borohydride is added to a solution of 3.25 g (0.01 mol) of methyl 2-(4-acetamidobutyryl)-5-chloro-hydrocinnamate in 35 ml of methanol and the mixture is stirred at room temperature for 1 hour. The solution is concentrated, extracted with methylene chloride/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Chromatography on silica gel with chloroform-methanol (20:1) gives methyl 2-(4-acetamido-1-hydroxybutyl)-5-chlorohydrocinnamate as a yellow oil.

reactant | sodium borohydride | 0.01 mol, 0.38 g | [BH4-].[Na+]
reactant | methyl 2-(4-acetamidobutyryl)-5-chloro-hydrocinnamate | 0.01 mol, 3.25 g | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)OC)C=C(C=C1)Cl | C16H20ClNO4
solvent | methanol | 35 ml | CO | CH4O
product | methyl 2-(4-acetamido-1-hydroxybutyl)-5-chlorohydrocinnamate | C(C)(=O)NCCCC(O)C1=C(CCC(=O)OC)C=C(C=C1)Cl | C16H22ClNO4
